US06429212B1
Synthesis of N-(2,6-dimethylphenyl)-homophthalimide (Compound No.A-2)
0.67 g (4.13 mmol) of homophthalic anhydride and 0.4 g (3.30 mmol) of 2,6-dimethylaniline were mixed, and melted at a temperature of 200° C. for 1 hour. The reactant was dissolved in ethyl acetate, washed with aqueous NaHCO3 solution, with water and then with saturated aqueous sodium chloride, dried over anhydrous MgSO4, and subjected to filtration with a folded filter paper. The filtrate was concentrated and evaporated to dryness. The residue was recrystallized by using a mixture of CH2Cl2 and hexane, to obtain 0.565 g (yield 68%) of the specified substance as light yellow granulated crystals. It showed the following physical properties and analyzed values.

reactant | homophthalic anhydride | 4.13 mmol, 0.67 g | C1(CC=2C(C(=O)O1)=CC=CC2)=O | C9H6O3
reactant | 2,6-dimethylaniline | 3.30 mmol, 0.4 g | CC1=C(N)C(=CC=C1)C | C8H11N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N-(2,6-dimethylphenyl)-homophthalimide | yield 68% | CC1=C(C(=CC=C1)C)N1C(CC=2C(C1=O)=CC=CC2)=O | C17H15NO2
